US06803380B1
c) 1-(4-methoxy-phenyl)-5-(4-methylsulfonyl-phenyl)-3-trifluoromethyl-1H-1,2,4-triazole
To a solution of 1-(4-methoxy-phenyl)-5-(4-methylthio-phenyl)-3-trifluoromethyl-1H-1,2,4-triazole (30 g, 0.08 mol) in CH2Cl2 (320 ml) was added portionwise MCPBA (47.2 g, 0.16 mol). The reaction mixture was stirred at room temperature for 1.5 h, then cooled to 0-5° C. and a sodium hydrosulfite solution (500 ml) was carefully added to maintain the temperature below 18-20° C. The pH was adjusted to 8 by the addition of NaOH 30%. The mixture was extracted with dichoromethane, the organic phase was washed with saturated brine, dried over sodium sulfate and evaporated. Flash chromatography on silica gel (toluene/ethyl acetate: 8/2 as the eluent) and recrystallization from ethanol yielded a white solid (29.42 g, 90%) m.p. 156° C.

reactant | 1-(4-methoxy-phenyl)-5-(4-methylthio-phenyl)-3-trifluoromethyl-1H-1,2,4-triazole | 0.08 mol, 30 g | COC1=CC=C(C=C1)N1N=C(N=C1C1=CC=C(C=C1)SC)C(F)(F)F | C17H14F3N3OS
reactant | MCPBA | 0.16 mol, 47.2 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | sodium hydrosulfite | 500 ml | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | CH2Cl2 | 320 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-methoxy-phenyl)-5-(4-methylsulfonyl-phenyl)-3-trifluoromethyl-1H-1,2,4-triazole | 29.42 g, 90% | COC1=CC=C(C=C1)N1N=C(N=C1C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F | C17H14F3N3O3S
